US04560691
To a 35 ml of concentrated sulfuric acid chilled in an ice bath was added 5 g of 5-(4-cyanophenyl)-1,6-naphthyridin-2(1H)-one. The resulting mixture was allowed to stand in an ice bath for 30 minutes and then at room temperature overnight. The mixture was poured onto ice and neutralized by adding aqueous ammonium hydroxide solution. The resulting white precipitate was collected, washed with distilled water, dried in a vacuum oven at 90°-95° C. to yield 4.8 g of 5-(4-carbamylphenyl)-1,6-naphthyridin-2(1H)-one, m.p. >300° C.

reactant | sulfuric acid | 35 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-(4-cyanophenyl)-1,6-naphthyridin-2(1H)-one | 5 g | C(#N)C1=CC=C(C=C1)C1=C2C=CC(NC2=CC=N1)=O | C15H9N3O
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 5-(4-carbamylphenyl)-1,6-naphthyridin-2(1H)-one | 4.8 g | C(N)(=O)C1=CC=C(C=C1)C1=C2C=CC(NC2=CC=N1)=O | C15H11N3O2
